US07008950B1
2,2,4,6,7-Pentamethyl-3-[4-(4-morpholinyl)phenyl]-2,3-dihydrobenzofuran-5-ol
A mixture of 1-(2,5-dimethoxy-3,4,6-trimethylphenyl)-2-methyl-1-[4-(4-morpholinyl)phenyl]propan-1-ol (8.00 g, 19.3 mmol) and 48% hydrobromic acid (100 mL) was heated under reflux for 3 hours in an argon atmosphere. After cooling, an aqueous saturated sodium hydrogencarbonate (30 mL) was added to the reaction mixture, which was then extracted twice with ethyl acetate. The organic layers were combined, washed with water, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was crystallized from isopropyl ether-hexane to obtain the title compound (6.40 g, yield 90. %).

reactant | 1-(2,5-dimethoxy-3,4,6-trimethylphenyl)-2-methyl-1-[4-(4-morpholinyl)phenyl]propan-1-ol | 19.3 mmol, 8.00 g | COC1=C(C(=C(C(=C1C)C)OC)C)C(C(C)C)(O)C1=CC=C(C=C1)N1CCOCC1 | C25H35NO4
reactant | hydrobromic acid | 100 mL | Br | BrH
solvent | sodium hydrogencarbonate | 30 mL | C(O)([O-])=O.[Na+]
product | 2,2,4,6,7-Pentamethyl-3-[4-(4-morpholinyl)phenyl]-2,3-dihydrobenzofuran-5-ol | 6.40 g | CC1(OC2=C(C1C1=CC=C(C=C1)N1CCOCC1)C(=C(C(=C2C)C)O)C)C | C23H29NO3
